US05039672
1. Methyl 6-fluoro-3,4-dihydro-4-(hydroxymethyl)-2H-benzopyran-4-carboxylate
A solution of 5 mL (0.035 mole) of diisopropylamine in 100 mL of THF was cooled to 0° C. and 22.1 mL (0.35 mole) of 1.6M butyllithium in hexane was added dropwise. After stirring for 30 minutes at 0° C. the resulting solution was cooled to -78° C. A solution of 6.2 g (0.0295 mole) of Methyl 6-fluoro-2,3-dihydro-4H-benzopyran-4-carboxylate in 20 mL of THF was then added dropwise while maintaining the temperature below -66° C. The resulting solution was stirred at -78° C. for 3 hours. Gaseous formaldehyde was then bubbled into the solution for 5 minutes. The reaction was allowed to warm to room temperature, then diluted with water and extracted with EtOAc. The EtOAc layer was dried over Na2SO4, filtered and evaporated to give 7.6 g of crude product as an oil. NMR (CDCl3) ppm (delta): 2.20-2.60 (m, 2H), 3.8 (s, 3H), 4.26 (t, 2H, J=5 Hz), 4.90 (m, 2H), 6.80-7.20 (m,3H).

reactant | diisopropylamine | 0.035 mole, 5 mL | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 0.35 mole, 1.6M, 22.1 mL | C(CCC)[Li]
reactant | Methyl 6-fluoro-2,3-dihydro-4H-benzopyran-4-carboxylate | 0.0295 mole, 6.2 g | FC=1C=CC2=C(C(CCO2)C(=O)OC)C1 | C11H11FO3
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | THF | 20 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | Methyl 6-fluoro-3,4-dihydro-4-(hydroxymethyl)-2H-benzopyran-4-carboxylate | 7.6 g | FC=1C=CC2=C(C(CCO2)(C(=O)OC)CO)C1 | C12H13FO4
